US09278973B2
A solution of 2-(2-methylbenzoyl)hydrazinecarboximidamide (5 g) in water (40 mL) was stirred overnight at 100° C. The reaction mixture was diluted with H2O (20 mL) and the solid was collected by filtration and washed with water (20 mL) to afford 3-o-tolyl-1H-1,2,4-triazol-5-amine (3 g, 66% yield) as a white solid.

reactant | 2-(2-methylbenzoyl)hydrazinecarboximidamide | 5 g | CC1=C(C(=O)NNC(N)=N)C=CC=C1 | C9H12N4O
solvent | water | 40 mL | O | H2O
solvent | H2O | 20 mL | O | H2O
product | 3-o-tolyl-1H-1,2,4-triazol-5-amine | 3 g, 66% yield | C1(=C(C=CC=C1)C1=NNC(=N1)N)C | C9H10N4
